US07358235B2
6-(3-Trifluoromethoxybenzylsulfanyl)-purine
After stirring a mixture of 30 mmol of 6-mercaptopurine monohydrate (5.12 g) and 30 mmol of water-free K2CO3 (4.12 g) in 25 mL of dry DMF for 5 minutes, 30 mmol of 4-trifluormethoxybenzylbromide (6.48 g) was added. After stirring for 4 h, 200 mL of H2O was added. The obtained solid was filtered and washed with EtOAc and CH2Cl2, followed by drying under vacuum.

reactant | 6-mercaptopurine monohydrate | 30 mmol, 5.12 g | O.SC1=C2NC=NC2=NC=N1
reactant | water | 30 mmol, 4.12 g | O | H2O
reactant | 4-trifluormethoxybenzylbromide | 30 mmol, 6.48 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | H2O | 200 mL | O | H2O
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-(3-Trifluoromethoxybenzylsulfanyl)-purine | FC(OC=1C=C(CSC2=C3NC=NC3=NC=N2)C=CC1)(F)F | C13H9F3N4OS
